US06900194B1
4′-(2-Bromoacetyl)[1,1′-biphenyl]-4-carbonitrile
4.68 g aluminium chloride (35.15 mmol) are dissolved in 45 ml dichloromethane and treated dropwise with 3.38 g (16.74 mmol) bromoacetyl bromide at 0° C. After 30 min 3 g (16.74 mmol) 4-cyanobiphenyl, dissolved in 15 ml dichloromethane, are added dropwise. The reaction mixture is stirred overnight at ambient temperature, added to ice-water and extracted 2 times with dichloromethane. The organic phase is washed with water and brine, dried and evaporated. The residue is triturated with petrol ether, filtered and dried. Yield: 4.24 g (83%).

reactant | aluminium chloride | 35.15 mmol, 4.68 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromoacetyl bromide | 16.74 mmol, 3.38 g | BrCC(=O)Br | C2H2Br2O
reactant | 4-cyanobiphenyl | 16.74 mmol, 3 g | C(#N)C1=CC=C(C=C1)C1=CC=CC=C1 | C13H9N
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4′-(2-Bromoacetyl)[1,1′-biphenyl]-4-carbonitrile | BrCC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C15H10BrNO
